US08168651B2
Methyl 3-bromoisonicotinate (1.0 eq, 1.76 g, 7.65 mmol), 2-aminophenylboronic acid hydrochloride (1.0 eq, 1.33 g, 7.67 mmol) and cesium carbonate (2.0 eq, 4.99 g, 15.31 mmol) were suspended in dioxane (15 ml). The mixture was degassed by bubbling nitrogen for 10 minutes. PdCl2(dppf) (0.05 eq, 280 mg, 0.383 mmol) was added and the mixture was stirred at reflux for 2 hours. The resulting solid was filtered, washed with methanol, water and methanol and dried. Benzo[c][2,6]naphthyridin-5(6H)-one was isolated as an off-white solid (823 mg, 55% yield). LCMS (ES): 95% pure, m/z 197 [M+1]+.

reactant | Methyl 3-bromoisonicotinate | 7.65 mmol, 1.76 g, 1.0 eq | BrC1=C(C(=O)OC)C=CN=C1 | C7H6BrNO2
reactant | 2-aminophenylboronic acid hydrochloride | 7.67 mmol, 1.33 g, 1.0 eq | Cl.NC1=C(C=CC=C1)B(O)O
reactant | cesium carbonate | 15.31 mmol, 4.99 g, 2.0 eq | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | 0.383 mmol, 280 mg, 0.05 eq | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | Benzo[c][2,6]naphthyridin-5(6H)-one | C1=C2C3=C(NC(C2=CC=N1)=O)C=CC=C3 | C12H8N2O
